US05120738
Preparation of N-[4-(Lauroylamino)phenyl]-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide
4-Lauroylaminoaniline (250 mg) and 223 mg of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid were reacted in the same manner as in Example 1 to obtain 381 mg of the title compound (yield: 72%).

reactant | 4-Lauroylaminoaniline | 250 mg | C(CCCCCCCCCCC)(=O)NC1=CC=C(N)C=C1 | C18H30N2O
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 223 mg | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | N-[4-(Lauroylamino)phenyl]-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide | 381 mg, yield: 72% | C(CCCCCCCCCCC)(=O)NC1=CC=C(C=C1)NC(CCNC(=O)C1OC(OCC1(C)C)(C)C)=O | C30H49N3O5
